US03959322
Suspend dl-13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10)-triene (9.0 g) in methanol (200 ml) and concentrated hydrochloric acid (5 ml). Heat the mixture on a steam bath for 15 minutes. Remove the solvent under vacuum and partition the residue between ether and aqueous sodium bicarbonate. Remove the organic solvents and dry to obtain a gum. Recrystallize from methanol to obtain dl-13-ethyl-3-methoxy-6-methylgona-1,3,5(10)-trien-17-one (7.29 g), m.p. 115°-123°. Recrystallize from methanol to obtain an analytical sample with m.p. 123°-127°; ultraviolet absorption peak at 280 mμ (ε2,190), infrared maximum (potassium bromide) at 5.75 μ.

reactant | 13-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10)-triene | 9.0 g | C(C)[C@]12C3(CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H32O3
solvent | methanol | 200 ml | CO | CH4O
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 13-ethyl-3-methoxy-6-methylgona-1,3,5(10)-trien-17-one | 7.29 g | C(C)[C@]12C(CC[C@H]2[C@H]2[C@H](CC1)C=1C=CC(=CC1C(C2)C)OC)=O | C21H28O2
